US07683079B2
Step B]: 3-o-Tolyl-1-(3,4,5-trimethoxy-phenyl)-piperidine-4-one
A slurry of 1-benzyl-1-methyl-4-oxo-3-o-tolyl-piperidinium iodide (1000 mg) in water (5 ml) was added in one portion to a refluxing solution of 3,4,5-trimethoxy aniline (395 mg) and anhydrous potassium carbonate (37 mg) in ethanol (10 ml). The reaction was heated to reflux over night. Water was added and the reaction was extracted four times with DCM. The combined organic layers were dried over sodium sulfate, filtered and the solvent was evaporated to leave a red-brown oil, which was purified by flash chromatography (diethyl ether) to give the product as a yellow oil (600 mg). MS (ESI): 356.2 (MH+).

reactant | 1-benzyl-1-methyl-4-oxo-3-o-tolyl-piperidinium iodide | 1000 mg | [I-].C(C1=CC=CC=C1)[N+]1(CC(C(CC1)=O)C1=C(C=CC=C1)C)C
reactant | 3,4,5-trimethoxy aniline | 395 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | potassium carbonate | 37 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 5 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-o-Tolyl-1-(3,4,5-trimethoxy-phenyl)-piperidine-4-one | 600 mg | C1(=C(C=CC=C1)C1CN(CCC1=O)C1=CC(=C(C(=C1)OC)OC)OC)C | C21H25NO4
